US09227976B2
Step 4: 3-phenyl-4-(2-phenylethynyl)-1H-pyrazol-5-amine
A mixture of N-[3-phenyl-4-(2-phenylethynyl)-1H-pyrazol-5-yl]acetamide (12.5 g, 42 mmol), ethanol (100 mL) and 25% aq. NaOH solution (100 mL) was stirred and heated to 90° C. for 1 h and cooled to room temperature. The reaction mixture was diluted with ethyl acetate and water. The organic phase was washed with water and brine, dried (phase separator cartridge) and concentrated in vacuo. Diethyl ether was added to the residue and the solid was collected by filtration, washed with diethyl ether and dried in vacuo to provide the title compound as a solid (5.4 g).

reactant | N-[3-phenyl-4-(2-phenylethynyl)-1H-pyrazol-5-yl]acetamide | 42 mmol, 12.5 g | C1(=CC=CC=C1)C1=NNC(=C1C#CC1=CC=CC=C1)NC(C)=O | C19H15N3O
reactant | ethanol | 100 mL | C(C)O | C2H6O
reactant | NaOH | 100 mL | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-phenyl-4-(2-phenylethynyl)-1H-pyrazol-5-amine | 5.4 g | C1(=CC=CC=C1)C1=NNC(=C1C#CC1=CC=CC=C1)N | C17H13N3
